US04405530
H. Methyl 2-fluoromethyl-2-phthalimido-4-oxo-5-bromo-pentanoate
A solution of methyl 2-fluoromethyl-2-phthalimido-4-oxo-5-diazo-pentanoate (1.53 g, 4.62 mmol) in ether (22.5 ml) is added dropwise and with vigorous stirring to cold (ice cooling) aqueous HBr (47%, 0.95 ml). Stirring is continued for 1 hour at room temperature. The organic phase is separated, washed with water, dried, and evaporated to give the title compound as a yellow oil (1.52 g).

reactant | methyl 2-fluoromethyl-2-phthalimido-4-oxo-5-diazo-pentanoate | 4.62 mmol, 1.53 g | FCC(C(=O)OC)(CC(C=[N+]=[N-])=O)N1C(C=2C(C1=O)=CC=CC2)=O | C15H12FN3O5
reactant | HBr | 0.95 ml | Br | BrH
solvent | ether | 22.5 ml | CCOCC | C4H10O
product | Methyl 2-fluoromethyl-2-phthalimido-4-oxo-5-bromo-pentanoate | 1.52 g | FCC(C(=O)OC)(CC(CBr)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C15H13BrFNO5
